US07592457B2
5-chloro-3-methyl-7-(4-methyl-piperazine-1-yl)-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione
A mixture of 3-(4-nitro-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione (0.3 g, 0.82 mmol) and 1-methylpiperazine (123 mL, 1.23 mmol) in dry pyridine (5.0 mL) was heated at reflux temperature for 5 hours. After evaporation of the solvent in vacuo, the residue was diluted with water (100 mL), and the resulting suspension was extracted with ethyl acetate (100 mL×3). The organic layer was washed with brine (100 mL×2), dried over anhydrous MgSO4 concentrated under reduced pressure. The pure objective compound (0.16 g, 46%) was obtained as yellow solid by a flash column chromatography (CH2Cl2:MeOH=20:1): 1H NMR (200 MHz, CDCl3) δ 1.90 (s, 3H, CH3), 2.34 (s, 3H, NCH3), 2.54-2.59 (m, 4H, NCH2), 2.88-3.07 (m, 4H, NCH2), 6.43 (d, J=1.8 Hz, 1H, ArH), 6.64 (d, J=2.0 Hz, 1H, ArH), 7.46 (d, J=9.0 Hz, 2H, ArH), 8.17 (d, J=9.0 Hz, 2H, ArH), 8.64 (br s, 1H, NH).

reactant | 3-(4-nitro-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.82 mmol, 0.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H10Cl2N2O4
reactant | 1-methylpiperazine | 1.23 mmol, 123 mL | CN1CCNCC1 | C5H12N2
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 5-chloro-3-methyl-7-(4-methyl-piperazine-1-yl)-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione | 0.16 g, 46% | ClC1=C2C(C(C(NC2=CC(=C1)N1CCN(CC1)C)=O)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C21H21ClN4O4
